US04786645
7-Chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride (6 g) is added, at a temperature in the vicinity of 67° C., to a solution of 2-amino-4-chloropyridine (2.6 g) and triethylamine (4.05 g) in dioxane (150 cc) which is heated to a temperature in the vicinity of 67° C., in the course of 15 minutes. The suspension obtained is heated, with stirring, at a temperature in the vicinity of 100° C. for 7 hours and 30 minutes and then stirred at a temperature in the vicinity of 20° C. for 16 hours. The solvent is evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 60° C. The residue obtained is dissolved in methylene chloride (350 cc). The solution obtained is washed twice with distilled water (200 cc in total), twice with an aqueous 1N sodium hydroxide solution (200 cc in total) and 3 times with distilled water (300 cc in total) and then dried over anhydrous magnesium sulphate, treated with decolorizing charcoal (0.5 g), filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 50° C. A crude product (5 g) is thereby obtained, which is dissolved in boiling acetonitrile (200 cc). Decolorizing charcoal (0.5 g) is added to the solution obtained and the suspension is filtered in the heated state. The filtrate is cooled at a temperature in the vicinity of 4° C. for 2 hours. The crystals formed are separated by filtration, washed twice with acetonitrile cooled to a temperature in the vicinity of 4° C. (10 cc in total) and twice with diethyl ether (20 cc in total) and then dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 20° C. in the presence of potassium hydroxide pellets. N-(4-chloro-2-pyridyl)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide (2.6 g) in the form of cream-coloured cyrstals, m.p. 190° C., is thereby obtained.

reactant | 7-Chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride | 6 g | Cl.ClC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2
reactant | 2-amino-4-chloropyridine | 2.6 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | triethylamine | 4.05 g | C(C)N(CC)CC | C6H15N
reactant | charcoal | 0.5 g | C | CH4
solvent | dioxane | 150 cc | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 350 cc | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 200 cc | C(C)#N | C2H3N
product | N-(4-chloro-2-pyridyl)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide | 2.6 g | ClC1=CC(=NC=C1)NC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2 | C17H13ClN4OS
